US05234989
Resorcinol formaldehyde adhesive latexes (RFL) were prepared from the latex by mixing 40 parts of a 4.72% aqueous resorcinol solution, 2.77 parts of a 37% aqueous formaldehyde solution, and 36.5 parts of the 47% solids copolymer latex and 20 parts of 15% aqueous sodium hydroxide (catalyst); adjusted to 20.6% solids with water and brought to a pH of 9.9 by addition of a 28% aqueous ammonium hydroxide solution. Nylon 66 fabric was treated with the RFL and heat activated. The treated fabric was then passed between two slabs of chlorosulfonated polyethylene compounded with 10 phr (parts per hundred parts rubber) magnesium oxide, 20 phr litharge, 40 phr SRF carbon black, 2 phr dipentamethylenethiuram tetrasulfide, 0.25 phr bis-benzothiazonyl sulfide and 3 phr nickel dibutyldithiocarbamate. The rubber slabs were then cured for 30 minutes at 153° C. The force required to pull the rubber and fabric apart, determined according to ASTM D-2138, was 28 pli with 80% rubber tear.

reactant | resorcinol | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | formaldehyde | C=O | CH2O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | magnesium oxide | [O-2].[Mg+2]
reactant | carbon black | C | CH4
reactant | dipentamethylenethiuram tetrasulfide | C1CCN(CC1)C(=S)SSSSC(=S)N2CCCCC2 | C12H20N2S6
reactant | D-2138 | COC1(CCOCC1)C2=CC(=CC(=C2)F)OCC3=CC4=C(C=C3)NC(=O)C=C4 | C22H22FNO4
catalyst | nickel dibutyldithiocarbamate | C(CCC)N(C([S-])=S)CCCC.[Ni+2].C(CCC)N(C([S-])=S)CCCC
solvent | water | O | H2O
product | Resorcinol formaldehyde | C1(O)=C(C(O)=CC=C1)C=O | C7H6O3
